US07329658B2
Preparation of Intermediate 3-Aminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt (I-3A-6a)
To a solution of 1-benzhydryl-3-benzylaminoazetidine-3-carboxylic acid amide (I-2A-1d; 1.83 g, 4.80 mmol) in methanol/methylene chloride was added excess 1 M HCl in diethyl ether (3.5 ml). After stirring for 10 minutes, the solvent was removed, in vacuo, and the resultant hydrochloride salt dissolved in 10:1 methanol/water (55 ml). After the addition of 20% Pd(OH)2 on carbon (50% water; 0.37 g), the mixture was placed on a Parr®) shaker and then reduced (50 psi H2) at room temperature for 23 hours. The reaction was diluted with methanol (50 ml), filtered through a 0.45 μM disk, and the disk rinsed with methanol (2×100 ml). The combined methanolic solutions were concentrated, in vacuo, and then triturated from diethyl ether to afford I-3A-6a (262 mg, 85%) as a tan solid: +APcI MS (M+1) 115.8; 1H NMR (400 MHz, CD3OD) δ 4.58 (d, J=13.3 Hz, 2H), 4.47 (d, J=13.3 Hz, 2H).

reactant | 1-benzhydryl-3-benzylaminoazetidine-3-carboxylic acid amide | 4.80 mmol, 1.83 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NCC1=CC=CC=C1 | C24H25N3O
reactant | HCl | 1 M | Cl | ClH
solvent | methanol methylene chloride | CO.C(Cl)Cl
solvent | diethyl ether | 3.5 ml | C(C)OCC | C4H10O
product | 3-Aminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt | Cl.NC1(CNC1)C(=O)N | InChI=1S/C4H9N3O.ClH/c5-3(8)4(6)1-7-2-4;/h7H,1-2,6H2,(H2,5,8);1H
